US07285563B2
2-hydroxy-4-(trifluoromethyl)benzaldehyde
A mixture of 2-methoxy-4-trifluoromethyl benzaldehyde (Description 96; 18 g, 88 mmol) and lithium chloride (11.19 g; 264 mmol) in anhydrous N,N-dimethylformamide (100 ml) was heated at reflux for 3 hours. The mixture was cooled and poured into water (200 ml), then acidified by the addition of 1N HCl. The mixture was extracted with ether (3×200 ml) then the combined ether layers washed with water (2×500 ml), sat NaCl (100 ml), dried over Na2SO4, filtered and evaporated to give the title compound (16.25 g, 97%).

reactant | 2-methoxy-4-trifluoromethyl benzaldehyde | 88 mmol, 18 g | COC1=C(C=O)C=CC(=C1)C(F)(F)F | C9H7F3O2
reactant | lithium chloride | 264 mmol, 11.19 g | [Cl-].[Li+]
reactant | water | 200 ml | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-hydroxy-4-(trifluoromethyl)benzaldehyde | 16.25 g, 97% | OC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H5F3O2
